US04110242
I. 1-acetyl-5,6-dihydrouracil
57 gm (0.5 mol) of 5,6-dihydrouracil and 817 gm (8 mols) of acetic acid anhydride were heated to boiling for ten hours after adding 2 ml of concentrated sulfuric acid thereto. The acetic acid produced was continuously distilled off by means of a fractionating column. After the acylation reaction had been completed, the surplus acetic acid anhydride was distilled off in vacuo (15 Torr) and the residue was recrystallized from isopropanol. The product obtained had a melting point of 191° to 193° C, and the elementary analysis resulted in the following values:

reactant | 5,6-dihydrouracil | 0.5 mol, 57 gm | N1C(=O)NC(=O)CC1 | C4H6N2O2
reactant | acetic acid anhydride | 8 mols, 817 gm | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-acetyl-5,6-dihydrouracil | C(C)(=O)N1C(=O)NC(=O)CC1 | C6H8N2O3
